reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]=[C:2]([C:3]([C:4]([O:5][C:6](=[O:7])[H:13])([H:8])[H:12])([H:10])[H:11])[H:9]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8],71.74134825168642
[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([C:2]([O:3][H:12])=[C:4]([H:10])[H:11])([H:7])([H:8])[H:9],42.158018312291496
[C:1]([O:2][C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4]([O+:6]=[C-:5][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],116.179678167686
[C:1]([C:2]([N:3]=[C:4]([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]=[N:6][H:12]>>[C:1]([C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],27.76154459599031
[O:1]([C:2]([C@@:3]1([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[O:6][C:7]1([H:16])[H:17])([H:9])[H:10])[H:8]>>[O:1]=[C:2]([C:3]([C:7]([O:6][C:5]([C:4]([H:8])([H:12])[H:13])([H:14])[H:15])([H:16])[H:17])([H:10])[H:11])[H:9],96.67484705026699
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([O:5][H:16])=[C:6]([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],64.7683550120027
[C:1]([O:2][C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[H:9])([H:6])([H:7])[H:8]>>[C:1]([O:2][H:15])([H:6])([H:7])[H:8].[C:3]([C:4]([H:10])([H:11])[H:12])(=[C:5]([H:13])[H:14])[H:9],65.03993884214461
[C:1]([C:2]([C:3]([C:4]#[C:5][C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:12])([H:13])[C:4][C@:5]1([C:6]([H:14])([H:15])[H:16])[H:11])([H:7])([H:8])[H:9],94.8628640352516
[C:1]([O:2][C:3]([C:4]([C:5][H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:6]([H:14])[H:16]>>[C:1]([O:2][C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],3.5611720271864016
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O:1](/[C:2](=[N:3]\[H:9])[H:8])[C:7](=[C:6]1[C:4]([H:10])([H:11])[C:5]1([H:12])[H:13])[H:14],100.972548708659
[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:4][C:3](=[C:2]([H:10])[H:11])[C:5]#[C:6][H:12])([H:7])([H:8])[H:9],99.03160196827659
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]([O:6][H:16])([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:3]([H:10])([H:11])[H:12])[O:4][C:5]1([H:14])[H:15])([H:7])([H:8])[H:9].[O:6]([H:13])[H:16],72.4416595538527
[C:1](=[C:2]([H:11])[H:12])([H:8])[H:10].[C:3](=[C:4]([H:14])[H:16])([C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17])[H:13].[H:9][H:15]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],41.82477412937829
[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])=[C:6]=[N:7][H:11])([H:8])([H:9])[H:10],69.2673789625509
[O:1]=[C:2]([O:3][C:4]([C:5]#[C:6][H:10])([H:8])[H:9])[H:7]>>[C:4](=[C:5]=[C:6]([H:7])[H:10])([H:8])[H:9].[O:1]=[C:2]=[O:3],50.6346505309962
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][H:13])([H:8])([H:9])[H:10].[C:3](=[C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[O:7])[H:17])([H:11])[H:12],57.1929897626159
[C:1]([C:2]([N:3]([C:4]([N+:6]#[C-:5])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],29.054396966952208
[C:1]1([H:8])([H:9])[C@@:2]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:11])[C@:3]1([O:4][H:14])[H:12].[H:10][H:13]>>[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10],65.55286323309721
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:3]([C:4]([C:5]([C:6]#[C:7][H:17])([H:10])[H:15])([H:14])[H:16])([H:12])[H:13])[H:11])([H:8])[H:9],86.7836709577005
[C-:6]#[O+:7].[O:1]([C@@:2]([C:3]([H:10])([H:11])[H:13])([C:4](=[O:5])[H:12])[H:9])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8],68.3515838263119
[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C:2]([H:11])([H:12])[N:3]([H:13])[C@@:4]1([O:5][H:9])[O:6][C:7]([H:14])([H:15])[H:16],94.5158793480072
[O:1]([C:2]([C:3]([C:4](=[C:5]([H:14])[H:15])[H:12])([C:7]([O:6][H:13])([H:16])[H:17])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[O:6][C:7]1([H:16])[H:17])([H:9])[H:10])[H:8],72.29426691389239
